US08080580B2
To a solution of 5-bromo-2-fluoro-benzoyl chloride (27.0 g, 114 mmol) and anisole (12.9 g, 13.0 mL, 119 mmol) in dichloromethane (150 mL) at 0° C. was added aluminum trichloride (16.2 g, 119 mmol) portionwise so that the internal temperature remained below 10° C. After stirring for 4 hours at 0° C., the solution was poured over crushed ice and the resulting mixture was stirred. After 30 minutes, the organic phase was removed and the aqueous phase was extracted two times with dichloromethane. The combined organic phases were washed once with aqueous 1M hydrochloric acid solution, once with aqueous 1M sodium hydroxide solution, and once with brine. The organic phase was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was recrystallized from ethanol to afford (5-bromo-2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone (22.5 g, 64%) as a white solid.

reactant | 5-bromo-2-fluoro-benzoyl chloride | 114 mmol, 27.0 g | BrC=1C=CC(=C(C(=O)Cl)C1)F | C7H3BrClFO
reactant | anisole | 119 mmol, 13.0 mL, 12.9 g | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum trichloride | 119 mmol, 16.2 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (5-bromo-2-fluoro-phenyl)-(4-methoxy-phenyl)-methanone | 22.5 g, 64% | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)F | C14H10BrFO2
